US05756507
Step 7.1D 2-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]isoindole-1,3-dione
To a stirred solution of 2-[2-[5-benzyloxy-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]isoindole-1,3-dione (510 mg in 20 mL dry ethyl acetate was added 197 mg of 10% palladium on carbon catalyst. The reaction flask was fitted with a hydrogen balloon, evacuated and recharged with hydrogen (3 times) and stirred at room temperature. After 37 hours the reaction was flushed with nitrogen, filtered over diatomaceous earth and concentrated in vacuo to provide the crude title compound (418 mg).

reactant | 2-[2-[5-benzyloxy-2-(3,5-dimethylphenyl)-1H-indol-3-yl]ethyl]isoindole-1,3-dione | C(C1=CC=CC=C1)OC=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN1C(C2=CC=CC=C2C1=O)=O | C33H28N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 197 mg | [Pd] | Pd
product | 2-[2-[2-(3,5-dimethylphenyl)-5-hydroxy-1H-indol-3-yl]ethyl]isoindole-1,3-dione | 418 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCN1C(C2=CC=CC=C2C1=O)=O)O | C26H22N2O3
